US08748624B2
STEP A: ethyl 3-(5-(5-chloro-2-(((2′,4′-dichloro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate
Solid NaBH(OAc)3 (4.9 g, 22.9 mmol) was added to a DCE solution (37 mL) of ethyl 3-(5-(5-chloro-2-formylphenyl)picolinamido)propanoate, prepared as in Example 6, (4.1 g, 11.5 mmol), 2′,4′-dichloro-[1,1′-biphenyl]-4-amine, prepared as in example x (3.0 g, 12.6 mmol), and AcOH (2.6 mL, 45.8 mmol) and the resulting mixture was stirred at room temperature. After 16 h the resulting mixture diluted with EtOAc washed with water and brine, dried (Na2SO4), dry-packed onto silica gel and purified via column chromatography to yield the title compound.

reactant | NaBH(OAc)3 | 22.9 mmol, 4.9 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | ethyl 3-(5-(5-chloro-2-formylphenyl)picolinamido)propanoate | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C=O | C18H17ClN2O4
reactant | 2′,4′-dichloro-[1,1′-biphenyl]-4-amine | 11.5 mmol, 4.1 g | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)N | C12H9Cl2N
reactant | AcOH | 45.8 mmol, 2.6 mL | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCE | 37 mL | ClCCCl | C2H4Cl2
product | ethyl 3-(5-(5-chloro-2-(((2′,4′-dichloro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)CNC1=CC=C(C=C1)C1=C(C=C(C=C1)Cl)Cl | C30H26Cl3N3O3
